US08304577B2
To (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate (716 mg, 2.77 mmol) in THF (27.700 mL) at 0° C. was added (4-(benzyloxy)phenyl)magnesium bromide (8.32 mL, 16.63 mmol) dropwise. After complete addition, the solution was heated to 65° C. for 1 h. The reaction was cooled to 0° C., quench carefully with 1N HCl and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (5%→60% ethyl acetate in hexanes) to afford (R)-tert-butyl 2-(4-(benzyloxy)benzoyl)pyrrolidine-1-carboxylate (533 mg, 1.397 mmol, 50.4% yield) as an amorphous yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.87-8.00 (m, 2H), 7.29-7.47 (m, 5H), 6.95-7.07 (m, 2H), 5.13-5.31 (m, 1H), 5.10-5.13 (m, J=3.78 Hz, 2H), 3.40-3.73 (m, 2H), 2.19-2.35 (m, 1H), 1.82-1.98 (m, 3H), 1.21-1.30 (m, 9H); LRMS (ESI) m/e 282.17 [(M-Boc+H)+, calcd for C18H20NO2 282.15]; m/e 404.11 [(M+Na)+, calcd for C23H27NNaO4 404.18].

reactant | (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate | 2.77 mmol, 716 mg | CON(C(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C)C | C12H22N2O4
reactant | (4-(benzyloxy)phenyl)magnesium bromide | 16.63 mmol, 8.32 mL | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[Mg]Br
solvent | THF | 27.700 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-(4-(benzyloxy)benzoyl)pyrrolidine-1-carboxylate | 1.397 mmol, 533 mg, 50.4% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C23H27NO4
